US07074800B1
Nitrogen was bubbled through a mixture of 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (400 mg, 1.24 mmol), (prepared as described for the starting material in Example 9), potassium carbonate (500 mg, 3.62 mmol), 5-hydroxy-1-methylindole (231 mg, 1.57 mmol), (prepared as described for the starting material in Example 291), and DMA (5.0 ml) for 5 minutes. The mixture was then stirred at 90° C. for 3 hours under an atmosphere of nitrogen and allowed to cool to ambient temperature. The reaction mixture was filtered and the filtrate evaporated in vacuo. The residue was purified by column chromatography, gradient elution, with dichloromethane/methanolic ammonia (7M), (100/0 to 90/10) to give 6-methoxy-4-(1-methylindol-5-yloxy)-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (247 mg, 44%).

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 1.24 mmol, 400 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | potassium carbonate | 3.62 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-hydroxy-1-methylindole | 1.57 mmol, 231 mg | OC=1C=C2C=CN(C2=CC1)C | C9H9NO
solvent | DMA | 5.0 ml | CC(=O)N(C)C | C4H9NO
product | 6-methoxy-4-(1-methylindol-5-yloxy)-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 247 mg, 44% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCC1)OC=1C=C2C=CN(C2=CC1)C | C25H28N4O3
